US08039469B2
Preparation of 1-(4-chlorophenyl)-3-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-urea
Starting from 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline (0.140 g 0.40 mmoles) and 4-chlorophenyl isocyanate (94 mg, 0.61 mmoles), the title compound was isolated as a white solid. Yield; 60 mg (30%); (M+H)=496.3

reactant | 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline | 0.40 mmoles, 0.140 g | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
reactant | 4-chlorophenyl isocyanate | 0.61 mmoles, 94 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | 1-(4-chlorophenyl)-3-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-urea | ClC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C24H26ClN7O3
